US08383819B2
5-Bromo-2,4-dimethoxybenzoic acid (10.0 g) and con sulfuric acid (2.4 g) were added to methanol (80 mL). After reaction at 70° C. for 5 hr, completion of the reaction was confirmed by HPLC. The reaction mixture was cooled and adjusted to pH 7 with 2 mol/L aqueous sodium hydroxide solution, and ethyl acetate (50 mL) was added. The organic solvent was evaporated from the mixture under reduced pressure. To the concentrated residue was added ethyl acetate (50 mL), and the mixture was concentrated again under reduced pressure. To the concentrated residue was added ethyl acetate (70 mL), and the mixture was stirred and partitioned. The obtained organic layer was washed successively with water (50 mL), 5% sodium hydrogencarbonate (50 mL) and water (50 mL). After washing, ethyl acetate was evaporated under reduced pressure to give methyl 5-bromo-2,4-dimethoxybenzoate (9.4 g) (90%).

reactant | 5-Bromo-2,4-dimethoxybenzoic acid | 10.0 g | BrC=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9BrO4
reactant | sulfuric acid | 2.4 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 80 mL | CO | CH4O
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | methyl 5-bromo-2,4-dimethoxybenzoate | 9.4 g, 90% | BrC=1C(=CC(=C(C(=O)OC)C1)OC)OC | C10H11BrO4
